US07737166B2
6-Amino-3-bromo-4-fluoro-2-methylbenzonitrile (I-265)
N-Bromosuccinimide (16.6 g, 93.3 mmol) was gradually added to an N,N-dimethylformamide (250 ml) solution of 2-amino-4-fluoro-6-methylbenzonitrile (I-264) (14.0 g, 93.3 mmol). After stirring for 6 hours, the reaction liquid was poured into water with ice (750 ml), the precipitated solid was collected by filtration. The solid was washed with water, then dried to obtain the entitled compound (20.2 g, 95%) as a gray solid.

reactant | N-Bromosuccinimide | 93.3 mmol, 16.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
reactant | 2-amino-4-fluoro-6-methylbenzonitrile | 93.3 mmol, 14.0 g | NC1=C(C#N)C(=CC(=C1)F)C | C8H7FN2
solvent | water | O | H2O
product | 6-Amino-3-bromo-4-fluoro-2-methylbenzonitrile | 20.2 g, 95% | NC1=CC(=C(C(=C1C#N)C)Br)F | C8H6BrFN2
